US06531502B1
3,5-Diisopropyl-4-methoxybenzaldehyde was condensed with 6-acetamido-2-oxindole to give 0.3 g of N-[3-(3,5-diisopropyl-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-acetamide as a yellow-orange solid.

reactant | 3,5-Diisopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1OC)C(C)C | C14H20O2
reactant | 6-acetamido-2-oxindole | C(C)(=O)NC1=CC=C2CC(NC2=C1)=O | C10H10N2O2
product | N-[3-(3,5-diisopropyl-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-acetamide | 0.3 g | C(C)(C)C=1C=C(C=C2C(NC3=CC(=CC=C23)NC(C)=O)=O)C=C(C1OC)C(C)C | C24H28N2O3
